US04631274
To a solution of diketene (1.01 g) in methylene chloride (15 ml) was dropwise added bromine (1.53 g) at -20° C., and the mixture was stirred at the same temperature for 20 minutes and added to a solution of benzhydryl 7-amino-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate (3.42 g) and trimethylsilylacetamide (5.3 g) in ethyl acetate (40 ml) at the same temperature. The reaction mixture was stirred at -10° to -15° C. for 10 minutes, poured into water and extracted with ethyl acetate. The extract was washed with 10% aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was triturated with diisopropyl ether and collected by filtration to give benzhydryl 7-(4-bromo-3-oxobutyramido)-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate (4.8 g).

reactant | diketene | 1.01 g | C=C1CC(=O)O1 | C4H4O2
reactant | bromine | 1.53 g | BrBr | Br2
reactant | benzhydryl 7-amino-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate | 3.42 g | NC1[C@@H]2N(C(=C(CS2)\C=C\Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H19ClN2O3S
reactant | trimethylsilylacetamide | 5.3 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | benzhydryl 7-(4-bromo-3-oxobutyramido)-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate | 4.8 g | BrCC(CC(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=O | C26H22BrClN2O5S
